US07737136B2
A solution of 2,6-dibromoaniline (9 g, 35.9 mmol), salicylaldehyde (2.79 mL, 35.9 mmol) and p-toluenesulfonic acid (20 mg, 0.1 mmol) in toluene (180 mL) was heated to reflux in a Dean-Stark apparatus for 2 h. After adding some triethylamine the reaction mixture was evaporated resulting in crude compound 2-[(2,6-dibromophenyl)iminomethyl]phenol (14 g, 100%).

reactant | 2,6-dibromoaniline | 35.9 mmol, 9 g | BrC1=C(N)C(=CC=C1)Br | C6H5Br2N
reactant | salicylaldehyde | 35.9 mmol, 2.79 mL | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.1 mmol, 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-[(2,6-dibromophenyl)iminomethyl]phenol | 14 g, 100% | BrC1=C(C(=CC=C1)Br)N=CC1=C(C=CC=C1)O | C13H9Br2NO
